US04304642
The procedure of Example 1 was repeated using diphenyldisulphide (300 mg) in acetonitrile containing cyclopentene (1.62 mg) at 1.40 volts for the passage of 3 coulomb equivalents of charge. After addition of water and extraction with diethyl ether, there was obtained 178 mg of 2-acetamido-1-phenylthio-cyclopentane. Mass Spec. m/e 235 (parent ion). I.R. 3290 & 1646 cm-1.

reactant | diphenyldisulphide | 300 mg | C1(=CC=CC=C1)SSC1=CC=CC=C1 | C12H10S2
reactant | cyclopentene | 1.62 mg | C1=CCCC1 | C5H8
reactant | water | O | H2O
reactant | diethyl ether | C(C)OCC | C4H10O
reactant | acetonitrile | C(C)#N | C2H3N
product | 2-acetamido-1-phenylthio-cyclopentane | 178 mg | C(C)(=O)NC1C(CCC1)SC1=CC=CC=C1 | C13H17NOS
